5
* LC oscillator

.TRAN 100 0.1 BE 1

L1 1 0 1
LX 2 0 1 IC=1
L0300 3 0 1
C1 1 0 1 IC=1
C2 4 0 1 IC=1
C0500 5 0 1
G0400 4 0 5 0 -1
G0500 5 0 4 0 1
G0200 2 0 3 0 -1
G0300 3 0 2 0 1
